US04021479
4-(2'-Bromo-4-biphenylyl)-butyric acid by method A
A mixture of 6.6 gm (0.018 mol) of ethyl 4-(2'-bromo-4-biphenylyl)-4-oxo-butyrate (m.p. 61°-62° C.), 3 gm of 100% hydrazine hydrate and 100 ml of diethyleneglycol was heated at 100° C. for 20 minutes. Then, 5 gm of pulverized potassium hydroxide were added. After refluxing for 5 hours, the reaction mixture was poured into 500 ml of water, acidified with dilute hydrochloric acid, and the precipitate was dissolved in ether. The ether solution was washed with water, dried and evaporated; the residue was dissolved in acetone, and by addition of cyclohexylamine the cyclohexylamine salt of 4-(2'-bromo-4-biphenylyl)-butyric acid, m.p. 148°-149° C. (from acetone), was obtained. Melting point of the free acid: 63° C. (from cyclohexane).

reactant | ethyl 4-(2'-bromo-4-biphenylyl)-4-oxo-butyrate | 0.018 mol, 6.6 gm | BrC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OCC)=O | C18H17BrO3
reactant | hydrazine hydrate | 3 gm | O.NN
reactant | potassium hydroxide | 5 gm | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | water | 500 ml | O | H2O
solvent | diethyleneglycol | 100 ml | C(COCCO)O | C4H10O3
product | 4-(2'-Bromo-4-biphenylyl)-butyric acid | BrC1=C(C=CC=C1)C1=CC=C(C=C1)CCCC(=O)O | C16H15BrO2
